US07053255B2
(2) Synthesis of 2-phenyl-2′-bromobiphenyl
Under an atmosphere of argon, 2,2′-dibromobiphenyl (9.5 g, 30 mmole), phenylboronic acid (3.7 g, 30 mmole) and tetrakis(triphenylphosphine)palladium(0) (1.0 g, 0.87 mmole, 3% Pd) were dissolved into toluene (75 ml). To the obtained solution, an aqueous solution of sodium carbonate (9.7 g, 92 mmole, 3 eq/46 ml) was added. The resultant solution was heated under refluxing for 10 hours and left standing for one night. The formed organic layer was separated, washed with a saturated aqueous solution of sodium chloride (50 ml) and dried over anhydrous magnesium sulfate. Then, the solvent was removed by distillation and a dark yellow oil was obtained. The obtained oil was purified by the column chromatography (silica gel/hexane, hexane+3% dichloromethane and hexane+5% dichloromethane, successively) and a colorless oil (6.5 g, 70%) was obtained.

reactant | 2,2′-dibromobiphenyl | 30 mmole, 9.5 g | BrC1=C(C=CC=C1)C1=C(C=CC=C1)Br | C12H8Br2
reactant | phenylboronic acid | 30 mmole, 3.7 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 92 mmole, 46 ml, 9.7 g, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.87 mmole, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-phenyl-2′-bromobiphenyl | 6.5 g, 70% | C1(=CC=CC=C1)C1=C(C=CC=C1)C1=C(C=CC=C1)Br | C18H13Br
